US04435387
N,N',N"-Tris[4-[[4-O-(α-D-glucopyranosyl)-β-D-glucopyranosyl]thio]phenyl]-1,3,5-benzenetricarboxamide
A solution of 2.56 g of N,N',N"-tris-[4-[[2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-β-D-glucopyranosyl]thio]phenyl]-1,3,5-benzenetricarboxamide in 35 ml of methanol saturated with ammonia at 0° C. was allowed to stand at ambient temperature for 6 hours. The solution was clarified by filtration and taken to dryness. The residual material was triturated with absolute ethanol and filtered giving 1.4 g of the desired intermediate as a cream-colored powder.

reactant | N,N',N"-tris-[4-[[2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-β-D-glucopyranosyl]thio]phenyl]-1,3,5-benzenetricarboxamide | 2.56 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)O[C@@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)COC(C)=O)SC1=CC=C(C=C1)NC(=O)C1=CC(=CC(=C1)C(=O)NC1=CC=C(C=C1)S[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](O[C@@H]2[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)COC(C)=O)[C@H](O1)COC(C)=O)C(=O)NC1=CC=C(C=C1)S[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](O[C@@H]2[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)COC(C)=O)[C@H](O1)COC(C)=O | C105H123N3O54S3
reactant | ammonia | N | H3N
solvent | methanol | 35 ml | CO | CH4O
product | N,N',N"-Tris[4-[[4-O-(α-D-glucopyranosyl)-β-D-glucopyranosyl]thio]phenyl]-1,3,5-benzenetricarboxamide | 1.4 g | [C@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@H]1[C@@H]([C@H]([C@@H](O[C@@H]1CO)SC1=CC=C(C=C1)NC(=O)C1=CC(=CC(=C1)C(=O)NC1=CC=C(C=C1)S[C@H]1[C@H](O)[C@@H](O)[C@H](O[C@@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO)[C@H](O1)CO)C(=O)NC1=CC=C(C=C1)S[C@H]1[C@H](O)[C@@H](O)[C@H](O[C@@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO)[C@H](O1)CO)O)O | C63H81N3O33S3
